US07875647B2
Step 2: tert-Butyl 2-cyclohexyl-2-oxoethylcarbamate
To a tert-butyl 2-(methoxy(methyl)amino)-2-oxoethylcarbamate (400 mg, 1.83 mmol) in THF (10 mL) was added cyclohexylmagnesium chloride (4.12 mL, 8.24 mmol) portionwise at room temperature under N2 atmosphere. As addition of the Grignard reagent was completed, the reaction mixture was stirred and heated to reflux for an hour. Then the mixture was allowed to cool down to room temperature. The reaction was quenched by adding water (10 mL) slowly. 1N HCl solution (30 mL) was added to the mixture, and extracted with EtOAc (20 mL×3). The combined organic layers were collected and evaporated in vacuo. The crude material was purified by column chromatography (hexane: EtOAc=10:1 to 5:1) to yield the desired product (110 mg, 25%).

reactant | tert-butyl 2-(methoxy(methyl)amino)-2-oxoethylcarbamate | 1.83 mmol, 400 mg | CON(C(CNC(OC(C)(C)C)=O)=O)C | C9H18N2O4
reactant | cyclohexylmagnesium chloride | 8.24 mmol, 4.12 mL | C1(CCCCC1)[Mg]Cl
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-Butyl 2-cyclohexyl-2-oxoethylcarbamate | 110 mg, 25% | C1(CCCCC1)C(CNC(OC(C)(C)C)=O)=O | C13H23NO3
